US07767677B2
Synthesis of (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-PROPYL-1H-IMIDAZOL-2-yl)pyridin-2-yl]piperazin-1-yl}methanone
To a stirred solution of oxalyl chloride (0.029 g, 0.228 mmol) in CH2Cl2 (1.5 mL) was added dropwise DMSO (0.028 g, 0.358 mmol) at −78° C. under nitrogen. The resulting mixture was stirred for 10 minutes. To this mixture was added dropwise a solution of (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-propyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]piperazin-1-yl}methanone (0.052 g, 0.112 mmol) in dichloromethane (1.5 mL). The resulting mixture was stirred for 10 minutes followed by the addition of triethylamine (0.056 g, 0.553 mmol). The reaction mixture was stirred at −78° C. for 1 h, and then allowed to warm to ambient temperature and quenched with water. The aqueous phase was extracted with dichloromethane. The combined organic layers were dried over Na2SO4 and then concentrated. The crude product was purified by preparative TLC to afford the title compound in 10% yield (0.005 g). 1H NMR (300 MHz, CDCl3) δ 8.58 (s, 1H), 8.07 (dd, J=1.0, 9.0 Hz, 1H), 7.75 (dd, J=5.1, 8.8 Hz, 1H), 7.08 (dd, J=2.3, 7.9 Hz, 1H), 6.81 (s, 1H), 6.67 (d, J=9.0 Hz, 1H), 4.01-3.64 (m, 4H), 3.58-3.51 (m, 2H), 3.35-3.27 (m, 2H), 2.64-2.55 (m, 2H), 1.74-1.61 (m, 2H), 0.96 (t, J=7.3 Hz, 3H). MS (ES+) m/z 462 (M+1).

reactant | oxalyl chloride | 0.228 mmol, 0.029 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.358 mmol, 0.028 g | CS(=O)C | C2H6OS
reactant | (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-propyl-4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]piperazin-1-yl}methanone | 0.112 mmol, 0.052 g | FC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1NC(CN1)CCC)C(F)(F)F | C23H25F4N5O
reactant | triethylamine | 0.553 mmol, 0.056 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (5-fluoro-2-trifluoromethylphenyl)-{4-[5-(5-PROPYL-1H-IMIDAZOL-2-yl)pyridin-2-yl]piperazin-1-yl}methanone | 10% yield | FC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1NC(=CN1)CCC)C(F)(F)F | C23H23F4N5O
